US06566557B2
A mixture of 4-methoxy phenylpropane (2 g), silica gel (0.5-0.8 g), DDQ (7.5 g) and dioxane (5-8 ml) was taken in a 100 ml Erlenmeyer flask fitted with a loose funnel at the top. The flask was placed inside a microwave oven operating at medium power (600 W) and irradiated for 2-8 minutes. After completion of the reaction (monitored by TLC), the contents of the flask were poured into chloroform and passed through a bed of Celite and further washed with chloroform. The filtrate and washing were combined and the chloroform layers were washed with an aqueous NaOH (15%, 3×15 ml). The combined aqueous layers were further extracted with chloroform (3×15 ml). The chloroform layers were then combined and washed with saturated sodium chloride (3×15 m), dried over anhydrous sodium sulphate and filtered. The solvent was removed to afford a crude product which was loaded on silica column and the column was first eluted with hexane (70-80 ml) and then with an increasing amount of hexane/ethyl acetate (9:1 to 1:9). The fractions were monitored on TLC plate and the desired fractions were combined and solvent was removed under vacuum to afford 4-methoxy cinnamaldehyde in 68% yield as a solid; mp 57-58° C.; (lit. mp 58° C.). The physical and spectral data was found to similar as reported.

reactant | 4-methoxy phenylpropane | 2 g | COC1=CC=C(C=C1)CCC | C10H14O
reactant | DDQ | 7.5 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | dioxane | 5-8 ml | O1CCOCC1 | C4H8O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-methoxy cinnamaldehyde | 68% yield | COC1=CC=C(C=CC=O)C=C1 | C10H10O2
